US08383637B2
5-[3-(Cyclohexylmethyl-amino)-phenoxy]-2-nitro-benzaldehyde
12N HCl (2 mL) and H2O (4 mL) were added to a mixture of cyclohexylmethyl-[3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenyl]-amine (0.0055 mol) in THF (17 mL), and the reaction mixture was stirred overnight at room temperature. H2O was added, and the mixture was extracted with diisopropyl ether. The organic layer was washed with a 10% NaHCO3 solution, dried (MgSO4), filtered off and the solvent was evaporated. The residue was purified by short column chromatography (eluent: 100% CH2Cl2). The purest product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | HCl | 12N, 2 mL | Cl | ClH
reactant | H2O | 4 mL | O | H2O
reactant | cyclohexylmethyl-[3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenyl]-amine | 0.0055 mol | C1(CCCCC1)CNC1=CC(=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])C(OC)OC | C22H28N2O5
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 5-[3-(Cyclohexylmethyl-amino)-phenoxy]-2-nitro-benzaldehyde | C1(CCCCC1)CNC=1C=C(OC=2C=CC(=C(C=O)C2)[N+](=O)[O-])C=CC1 | C20H22N2O4
